US07157487B2
A mixture of 2-chlorobenzoxazole (489 mg, 2.88 mmol) and methyl 4-amino-3-chlorophenylacetate (567 mg, 2.84 mmol) and pyridinium•p-toluenesulfonate (pyridinium•p-toluenesulfonate (PPTS)) (214 mg, 0.85 mmol) was heated under reflux for 3 hours in xylene (10 ml). After the reaction mixture was cooled to room temperature, the solvent was distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column, whereby from n-hexane/ethyl acetate (7:1, v/v) eluate fractions, methyl (4-(2-benzothiazolyl)amino-3-chlorophenyl)acetate (296 mg, 32%) was obtained as a white solid.

reactant | 2-chlorobenzoxazole | 2.88 mmol, 489 mg | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | methyl 4-amino-3-chlorophenylacetate | 2.84 mmol, 567 mg | NC1=C(C=C(C=C1)CC(=O)OC)Cl | C9H10ClNO2
reactant | pyridinium•p-toluenesulfonate | 0.85 mmol, 214 mg | [NH+]1=CC=CC=C1.CC=1C=CC(=CC1)S(=O)(=O)O
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | methyl (4-(2-benzothiazolyl)amino-3-chlorophenyl)acetate | 296 mg, 32% | S1C(=NC2=C1C=CC=C2)NC2=C(C=C(C=C2)CC(=O)OC)Cl | C16H13ClN2O2S
